US06300352B1
a) 2-Fluoro-5-bromobenzamide
5-Bromo-2-fluorobenzonitrile (0.370 g) was heated at 110° C. for 1 hour in concentrated sulfuric acid (10 ml). After cooling, the reaction was diluted with ice-cold water and the slurry was extracted into ethyl acetate, dried over anhydrous magnesium sulfate, filtered and evaporated to afford the sub-title compound as a solid (0.328 g).

reactant | 5-Bromo-2-fluorobenzonitrile | 0.370 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Fluoro-5-bromobenzamide | 0.328 g | FC1=C(C(=O)N)C=C(C=C1)Br | C7H5BrFNO
